US04767769
A stirred suspension of 3-piperidinomethylthiophenol (0.36 g) in dry dimethylformamide (4 ml) was treated with anhydrous potassium carbonate (0.5 g) and stirred for 30 minutes. 4-Bromobutyronitrile (0.18 ml) was then added to the reaction mixture with dimethylformamide (1 ml) and the resultant suspension stirred at room temperature for 48 hours. The resulting product was poured into 5 volumes of water and extracted with ethyl acetate; the extracts were washed with water, dried and evaporated to give 4-(3-piperidinomethylphenylthio)butyronitrile as an orange-red oil.

reactant | 3-piperidinomethylthiophenol | 0.36 g | N1(CCCCC1)CC=1C=C(C=CC1)S | C12H17NS
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-Bromobutyronitrile | 0.18 ml | BrCCCC#N | C4H6BrN
reactant | water | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-(3-piperidinomethylphenylthio)butyronitrile | N1(CCCCC1)CC=1C=C(C=CC1)SCCCC#N | C16H22N2S
